US07452880B2
To a suspension of sodium hydride (0.47 g, 60% in oil) in 50 mL of THF was added dropwise a solution of 1 mL of 2,4-difluorophenol in 10 mL of THF. The reaction mixture was stirred for one hour, and 2-chloro-5-methyl-4-nitropyridine-1-oxide (2.0 g) was added slowly. The resulting mixture was stirred at reflux for 8 hours and at room temperature overnight. The solvent was removed and the light yellow solid isolated by extraction with methylene chloride. Purification via chromatography (silica gel, ethyl acetate/hexane, 1:1) gave 1.65 g of 2-(2,4-difluorophenoxy)-5-methyl-4-nitropyridine-1-oxide (55% yield). Mass Spec. M+H=283.

reactant | sodium hydride | 0.47 g | [H-].[Na+]
reactant | 2,4-difluorophenol | 1 mL | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | 2-chloro-5-methyl-4-nitropyridine-1-oxide | 2.0 g | ClC1=[N+](C=C(C(=C1)[N+](=O)[O-])C)[O-] | C6H5ClN2O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(2,4-difluorophenoxy)-5-methyl-4-nitropyridine-1-oxide | 1.65 g, 55% yield | FC1=C(OC2=[N+](C=C(C(=C2)[N+](=O)[O-])C)[O-])C=CC(=C1)F | C12H8F2N2O4
